US07781443B2
(2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)-pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-1,2,3,4-tetrahydro-[1,5]naphthyridine (150 mg) is dissolved in toluene (2.0 ml), and thereto is added 2-chloroethyl isocyanate (40 mg). The mixture is stirred at 60° C. for 9 hours under nitrogen flow. To the reaction mixture is added a saturated aqueous sodium hydrogen carbonate solution, the mixture is extracted with ethyl acetate. The organic layer is washed with saturated brine and dried over magnesium sulfate, then concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=2:1→1:9) to give (2R,4S)-4-{[3,5-bis(trifluoromethyl)-benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid (2-chloroethyl)amide (160 mg). MS (m/z): 702/704 [M+H]+.

reactant | (2R,4S)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(morpholin-4-yl)-pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-1,2,3,4-tetrahydro-[1,5]naphthyridine | 150 mg | FC(C=1C=C(CC2=NC(=NC=C2N2CCOCC2)N[C@H]2C[C@H](NC3=CC=C(N=C23)OC)CC)C=C(C1)C(F)(F)F)(F)F | C28H30F6N6O2
reactant | 2-chloroethyl isocyanate | 40 mg | ClCCN=C=O | C3H4ClNO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | (2R,4S)-4-{[3,5-bis(trifluoromethyl)-benzyl]-[5-(morpholin-4-yl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid (2-chloroethyl)amide | 160 mg | ClCCNC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)N1CCOCC1)CC | C31H34ClF6N7O3
